### PR TITLE
[Merged by Bors] - feat(Analysis/Matrix): Schur product theorem for Hadamard product

### PR DESCRIPTION
**Pull request by mrdouglasny**
Prove the Schur product theorem (Schur 1911): the Hadamard (entrywise) product of positive (semi)definite matrices is positive (semi)definite, for any index type. The proof restricts to the finite support via `submatrix`, then reduces to positivity of the Kronecker product via a diagonal embedding.

Co-authored-by: TJHeeringa <16029718+TJHeeringa@users.noreply.github.com>

---

### Context

This result was formalized as part of [OSforGFF](https://github.com/mrdouglasny/OSforGFF) (Osterwalder–Schrader axioms for the Gaussian Free Field) where it is used for reflection positivity via the Hadamard exponential. The extension to infinite index types uses the Finsupp/submatrix approach contributed by @TJHeeringa. Cleanup for Mathlib conventions was assisted by Claude Code (Anthropic).

### References

* Schur, I. (1911). *Bemerkungen zur Theorie der beschränkten Bilinearformen mit unendlich vielen Veränderlichen*. J. reine angew. Math., 140, 1–28.

Zulip thread: https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Schur.20product.20theorem.20.28Hadamard.20product.20preserves.20posdef.29

### CODE REVIEW

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 1]
```diff
@@ -0,0 +1,124 @@
...
+matrices is positive definite. -/
+theorem PosDef.hadamard {A B : Matrix ι ι 𝕜}
+    (hA : A.PosDef) (hB : B.PosDef) : (A ⊙ B).PosDef := by
+  classical
+  have := Fintype.ofFinite ι
+  rw [Matrix.posDef_iff_dotProduct_mulVec]
+  constructor
+  · exact IsHermitian.hadamard hA.isHermitian hB.isHermitian
+  · intro x hx
+    let y : ι × ι → 𝕜 := diagVecEmbed x
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]:
```suggestion
    let y : ι × ι → 𝕜 := vec (diagonal x)
```
should save you from needing the new definition

Comment (eric-wieser) [reply Mathlib/Analysis/Matrix/SchurProduct.lean]: You can then use
```
rw [kronecker_mulVec_vec, star_vec_dotProduct_vec, diagonal_conjTranspose ] at hk
```
to make some progress.

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 2]
```diff
@@ -0,0 +1,124 @@
...
+
+/-- **Schur product theorem**: the Hadamard (entrywise) product of positive definite
+matrices is positive definite. -/
+theorem PosDef.hadamard {A B : Matrix ι ι 𝕜}
+    (hA : A.PosDef) (hB : B.PosDef) : (A ⊙ B).PosDef := by
+  classical
+  have := Fintype.ofFinite ι
+  rw [Matrix.posDef_iff_dotProduct_mulVec]
+  constructor
+  · exact IsHermitian.hadamard hA.isHermitian hB.isHermitian
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]:
```suggestion
  · exact hA.isHermitian.hadamard hB.isHermitian
```

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 3]
```diff
@@ -0,0 +1,124 @@
...
+section Hermitian
+
+variable {ι α : Type*} [Finite ι] [CommMonoid α] [StarMul α]
+
+/-- The conjugate transpose distributes over the Hadamard product. -/
+theorem conjTranspose_hadamard (A B : Matrix ι ι α) : (A ⊙ B)ᴴ = Aᴴ ⊙ Bᴴ := by
+  classical
+  have := Fintype.ofFinite ι
+  ext i j
+  simp only [conjTranspose_apply, hadamard_apply, star_mul']
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: This theorem should go in `Mathlib.LinearAlgebra.Matrix.Hadamard`; and we should add the `transpose` theorem at the same time!

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 4]
```diff
@@ -0,0 +1,124 @@
...
+namespace Matrix
+
+section Hermitian
+
+variable {ι α : Type*} [Finite ι] [CommMonoid α] [StarMul α]
+
+/-- The conjugate transpose distributes over the Hadamard product. -/
+theorem conjTranspose_hadamard (A B : Matrix ι ι α) : (A ⊙ B)ᴴ = Aᴴ ⊙ Bᴴ := by
+  classical
+  have := Fintype.ofFinite ι
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: This line is unused!

**Review by eric-wieser — COMMENTED** [review]
Thanks, this looks pretty good!

File: Mathlib/Analysis/Matrix/SchurProduct.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Matrix/SchurProduct.lean]: (this comment still applies in the new location)

File: Mathlib/LinearAlgebra/Matrix/Hadamard.lean [hunk 5]
```diff
@@ -192,4 +192,23 @@ end trace
...
+section conjTranspose
+
+variable {m : Type*} [Finite m] {α : Type*} [CommMonoid α] [StarMul α]
+
+/-- The conjugate transpose distributes over the Hadamard product. -/
+theorem conjTranspose_hadamard (A B : Matrix m m α) : (A ⊙ B)ᴴ = Aᴴ ⊙ Bᴴ := by
+  classical
+  have := Fintype.ofFinite m
+  ext i j
+  simp only [conjTranspose_apply, hadamard_apply, star_mul']
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Hadamard.lean]: Heres's a better statement and proof that doesn't need commutativity:
```suggestion
theorem conjTranspose_hadamard (A B : Matrix m m α) : (A ⊙ B)ᴴ = Bᴴ ⊙ Aᴴ :=
  ext fun _ _ => star_mul _ _
```

File: Mathlib/LinearAlgebra/Matrix/Hadamard.lean [hunk 6]
```diff
@@ -192,4 +192,23 @@ end trace
...
+
+omit [Finite m] [StarMul α] in
+/-- The transpose distributes over the Hadamard product. -/
+theorem transpose_hadamard (A B : Matrix m m α) : (A ⊙ B)ᵀ = Aᵀ ⊙ Bᵀ := by
+  ext i j
+  simp only [transpose_apply, hadamard_apply]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Hadamard.lean]: This one has an even shorter proof!

```suggestion
theorem transpose_hadamard (A B : Matrix m m α) : (A ⊙ B)ᵀ = Aᵀ ⊙ Bᵀ := rfl
```

File: Mathlib/LinearAlgebra/Matrix/Hadamard.lean
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Hadamard.lean:1]: Can you update both of these reults to be stated for rectangular matrices? There are `m` and `n` variables at the top of the file you can reuse.

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 7]
```diff
@@ -0,0 +1,98 @@
...
+  intro h
+  apply hx
+  funext i
+  have := congrArg (fun f => f (i, i)) h
+  simpa [vec, diagonal] using this
+
+/-- **Schur product theorem**: the Hadamard (entrywise) product of positive definite
+matrices is positive definite. -/
+theorem PosDef.hadamard {A B : Matrix ι ι 𝕜}
+    (hA : A.PosDef) (hB : B.PosDef) : (A ⊙ B).PosDef := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: Could you prove the `PosSemidef` version too? I would imagine there's a helper lemma you can extract that does all the work you need which then trivially dispatches both.

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 8]
```diff
@@ -0,0 +1,98 @@
...
+  rw [IsHermitian, conjTranspose_hadamard, hA.eq, hB.eq]
+
+private lemma vec_diagonal_ne_zero [DecidableEq ι] {x : ι → 𝕜} (hx : x ≠ 0) :
+    vec (diagonal x) ≠ 0 := by
+  have := Fintype.ofFinite ι
+  intro h
+  apply hx
+  funext i
+  have := congrArg (fun f => f (i, i)) h
+  simpa [vec, diagonal] using this
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: I think there's a more generally useful missing lemma here,
```
@[simp]
theorem Matrix.diagonal_eq_zero [DecidableEq m] [Zero α] {d : m → α} : diagonal d = 0 ↔ d = 0 :=
  diagonal_injective.eq_iff' diagonal_zero
```
and similarly for `one`

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 9]
```diff
@@ -0,0 +1,98 @@
...
+positivity of the Hadamard quadratic form to positivity of the Kronecker product
+via `Matrix.vec` applied to a diagonal matrix.
+
+## Main declarations
+
+* `Matrix.PosDef.hadamard`: the Hadamard product of positive definite matrices is
+  positive definite.
+
+The supporting Hermitian results (`conjTranspose_hadamard`, `IsHermitian.hadamard`) are
+in `Mathlib.LinearAlgebra.Matrix.Hadamard`.
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: I'd suggest just dropping this comment, since these results are trivial , and no more supporting than the rest of the matrix machinery. Especially as this is untrue for `IsHermitian.hadamard`!

File: Mathlib/LinearAlgebra/Matrix/Hadamard.lean [hunk 10]
```diff
@@ -192,4 +192,20 @@ end trace
...
+
+/-- The conjugate transpose reverses the Hadamard product: `(A ⊙ B)ᴴ = Bᴴ ⊙ Aᴴ`. -/
+theorem conjTranspose_hadamard (A B : Matrix m n α) : (A ⊙ B)ᴴ = Bᴴ ⊙ Aᴴ := by
+  ext i j
+  exact StarMul.star_mul (A j i) (B j i)
+
+omit [StarMul α] in
+/-- The transpose distributes over the Hadamard product. -/
+theorem transpose_hadamard (A B : Matrix m n α) : (A ⊙ B)ᵀ = Aᵀ ⊙ Bᵀ :=
+  ext fun _ _ => rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Hadamard.lean]: You already have most of the `variable`s at the top of the file, it's usually bad form to repeat them
```suggestion
/-- The conjugate transpose reverses the Hadamard product: `(A ⊙ B)ᴴ = Bᴴ ⊙ Aᴴ`. -/
theorem conjTranspose_hadamard [Mul α] [StarMul α] (A B : Matrix m n α) : (A ⊙ B)ᴴ = Bᴴ ⊙ Aᴴ := by
  ext i j
  exact StarMul.star_mul (A j i) (B j i)

/-- The transpose distributes over the Hadamard product. -/
theorem transpose_hadamard [Mul α] (A B : Matrix m n α) : (A ⊙ B)ᵀ = Aᵀ ⊙ Bᵀ :=
  ext fun _ _ => rfl
```

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 11]
```diff
@@ -0,0 +1,99 @@
...
+
+## References
+
+* Schur, I. (1911). *Bemerkungen zur Theorie der beschränkten Bilinearformen mit unendlich
+  vielen Veränderlichen*. J. reine angew. Math., 140, 1–28.
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: Could you add this to `references.bib`, if it is not already there, then reference it as `[the text to show in the docs][thebibkey]`

File: Mathlib/Analysis/Matrix/SchurProduct.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Matrix/SchurProduct.lean]: Added in #37303, along with the whole family of missing lemmas.

File: Mathlib/LinearAlgebra/Matrix/Hadamard.lean (hunk 10 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Hadamard.lean]: (cleaned up in #37302, since two Prs wrote these same results; note we usually skip docstrnigs that just read out a simple statement)

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 12]
```diff
@@ -0,0 +1,109 @@
...
+  intro h; apply hx; funext i
+  have := congrArg (fun f => f (i, i)) h
+  simpa [vec, diagonal] using this
+
+omit [Finite ι] in
+/-- The Kronecker quadratic form on a diagonal embedding equals the Hadamard quadratic form. -/
+private theorem kronecker_diagonal_eq_hadamard [DecidableEq ι] [Fintype ι]
+    {A B : Matrix ι ι 𝕜} (x : ι → 𝕜) :
+    star (vec (diagonal x)) ⬝ᵥ (A ⊗ₖ B).mulVec (vec (diagonal x)) =
+      star x ⬝ᵥ (A ⊙ B).mulVec x := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: I assume this lemma generalizes by replacing the second `x` with a new variable `x'`?

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 13]
```diff
@@ -0,0 +1,109 @@
...
+
+variable {ι : Type*} [Finite ι] {𝕜 : Type*} [RCLike 𝕜]
+
+omit [Finite ι] [RCLike 𝕜] in
+/-- The Hadamard product of Hermitian matrices is Hermitian. -/
+theorem IsHermitian.hadamard {α : Type*} [CommMonoid α] [StarMul α] {A B : Matrix ι ι α}
+    (hA : A.IsHermitian) (hB : B.IsHermitian) : (A ⊙ B).IsHermitian := by
+  rw [IsHermitian, conjTranspose_hadamard, hB.eq, hA.eq, hadamard_comm]
+
+omit [Finite ι] in
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: I'm not quite sure why you added this assumption in the first place, given that you proceed by excluding it from almost every lemma!

Comment (eric-wieser) [reply Mathlib/Analysis/Matrix/SchurProduct.lean]: I'd suggest adding `[Finite _]` directly to the lemmas that need it, rather than removing it from the ones that don't

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 14]
```diff
@@ -0,0 +1,111 @@
...
+    star y ⬝ᵥ (A ⊗ₖ B).mulVec y
+        = ∑ p, star (y p) * ((A ⊗ₖ B).mulVec y) p := by
+          simp only [dotProduct, Pi.star_apply]
+    _ = ∑ i, ∑ j, star (y (i, j)) * ((A ⊗ₖ B).mulVec y) (i, j) :=
+          Fintype.sum_prod_type _
+    _ = ∑ i, ∑ j, star (y (i, j)) *
+          (∑ k, ∑ l, (A i k * B j l) * y (k, l)) := by
+          apply Finset.sum_congr rfl; intro i _
+          apply Finset.sum_congr rfl; intro j _
+          congr 1
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]:
```suggestion
          congr! 3 with i _ j _
```

File: Mathlib/Analysis/Matrix/SchurProduct.lean (hunk 12 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Matrix/SchurProduct.lean]: Indeed it does:
```lean
theorem kronecker_diagonal_eq_hadamard
    {R : Type*} [NonUnitalSemiring R] [StarRing R]
    [DecidableEq m] [Fintype m]
    [DecidableEq n] [Fintype n]
    {A B : Matrix m n R} (x : m → R) (x' : n → R) :
    star (vec (diagonal x)) ⬝ᵥ (A ⊗ₖ B).mulVec (vec (diagonal x')) =
      star x ⬝ᵥ (A ⊙ B).mulVec x' := by
  let y := vec (diagonal x)
  let y' := vec (diagonal x')
  calc
    star y ⬝ᵥ (A ⊗ₖ B).mulVec y'
        = ∑ p, star (y p) * ((A ⊗ₖ B).mulVec y') p := by
          simp only [dotProduct, Pi.star_apply]
    _ = ∑ i, ∑ j, star (y (i, j)) * ((A ⊗ₖ B).mulVec y') (i, j) :=
          Fintype.sum_prod_type _
    _ = ∑ i, ∑ j, star (y (i, j)) * (∑ k, ∑ l, A i k * B j l * y' (k, l)) := by
          congr! 3 with i _ j _
          calc
            ((A ⊗ₖ B).mulVec y') (i, j) = ∑ q, ((A ⊗ₖ B) (i, j) q) * y' q := by
                    simp only [Matrix.mulVec, dotProduct]
            _ = ∑ q, A i q.1 * B j q.2 * y' q := by rfl
            _ = ∑ k, ∑ l, A i k * B j l * y' (k, l) := by
                    simpa using Fintype.sum_prod_type (fun q => A i q.1 * B j q.2 * y' q)
    _ = ∑ i, ∑ k, star (x i) * (A i k * B i k * x' k) := by
          simp [y, y', diagonal, flip, Finset.mul_sum, eq_comm,
            apply_ite star, star_zero]
    _ = star x ⬝ᵥ (A ⊙ B).mulVec x' := by
          simp only [dotProduct, Pi.star_apply, Matrix.mulVec, Matrix.hadamard,
            Matrix.of_apply, Finset.mul_sum]
```

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 15]
```diff
@@ -0,0 +1,111 @@
...
+private lemma vec_diagonal_ne_zero [DecidableEq ι] {x : ι → 𝕜} (hx : x ≠ 0) :
+    vec (diagonal x) ≠ 0 := by
+  intro h; apply hx; funext i
+  have := congrArg (fun f => f (i, i)) h
+  simpa [vec, diagonal] using this
+
+omit [Finite ι] [RCLike 𝕜] in
+/-- The Kronecker quadratic form on a diagonal embedding equals the Hadamard quadratic form.
+This identity holds for any (possibly noncommutative) `StarRing`. -/
+private theorem kronecker_diagonal_eq_hadamard
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: I don't think this should be private, and it definitely doesn't belong in the `Analysis` folder.
If you flip the equality, you can call it `star_dotProduct_hadamard_mulVec_eq_kronecker`.

File: Mathlib/LinearAlgebra/Matrix/SchurProduct.lean [hunk 16]
```diff
@@ -0,0 +1,65 @@
...
+open scoped Matrix Kronecker
+
+namespace Matrix
+
+variable {m n : Type*}
+
+/-- The Hadamard quadratic form equals the Kronecker quadratic form on diagonal embeddings.
+This identity relates the entrywise product to the Kronecker product via
+`star x ⬝ᵥ (A ⊙ B) *ᵥ x' = star (vec (diagonal x)) ⬝ᵥ (A ⊗ₖ B) *ᵥ vec (diagonal x')`. -/
+theorem star_dotProduct_hadamard_mulVec_eq_kronecker
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SchurProduct.lean]: Just add this to `Mathlib.LinearAlgebra.Matrix.Vec`, no need for a new file

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/SchurProduct.lean]: When you do, here's a helper lemma that shortens this one to a few lines;
```lean
theorem dotProduct_hadamard_mulVec_eq_kronecker
    {R : Type*} [NonUnitalSemiring R]
    [DecidableEq m] [Fintype m] [DecidableEq n] [Fintype n]
    {A B : Matrix m n R} (x : m → R) (x' : n → R) :
    x ⬝ᵥ (A ⊙ B) *ᵥ x' = vec (diagonal x) ⬝ᵥ (A ⊗ₖ B) *ᵥ vec (diagonal x') := by
  let +generalize y := vec (diagonal x)
  let +generalize y' := vec (diagonal x')
  symm
  calc
    y ⬝ᵥ (A ⊗ₖ B) *ᵥ y' = ∑ p, y p * ((A ⊗ₖ B) *ᵥ y') p := by
          simp only [dotProduct]
    _ = ∑ i, ∑ j, y (i, j) * ((A ⊗ₖ B) *ᵥ y') (i, j) :=
          Fintype.sum_prod_type _
    _ = ∑ i, ∑ j, y (i, j) * (∑ k, ∑ l, A i k * B j l * y' (k, l)) := by
          congr! 3 with i _ j _
          calc
            ((A ⊗ₖ B) *ᵥ y') (i, j)  = ∑ q, ((A ⊗ₖ B) (i, j) q) * y' q := by
                    simp only [Matrix.mulVec, dotProduct]
            _ = ∑ q, A i q.1 * B j q.2 * y' q := rfl
            _ = ∑ k, ∑ l, A i k * B j l * y' (k, l) := by
                    simpa using Fintype.sum_prod_type
                      (fun q => A i q.1 * B j q.2 * y' q)
    _ = ∑ i, ∑ k, x i * (A i k * B i k * x' k) := by
          simp [y, y', diagonal, flip, Finset.mul_sum, eq_comm]
    _ = x ⬝ᵥ (A ⊙ B) *ᵥ x' := by
          simp only [dotProduct, Matrix.mulVec, Matrix.hadamard,
            Matrix.of_apply, Finset.mul_sum]
```
then this one is
```
  rw [dotProduct_hadamard_mulVec_eq_kronecker, ← diagonal_conjTranspose, conjTranspose, vec_map,
    diagonal_transpose]
  rfl
```

File: Mathlib/LinearAlgebra/Matrix/Vec.lean [hunk 17]
```diff
@@ -160,6 +160,51 @@ theorem vec_mul_eq_vecMul [DecidableEq m] (A : Matrix m n R) (B : Matrix n p R)
...
+                    simp only [Matrix.mulVec, dotProduct]
+            _ = ∑ q, A i q.1 * B j q.2 * y' q := rfl
+            _ = ∑ k, ∑ l, A i k * B j l * y' (k, l) := by
+                    simpa using Fintype.sum_prod_type
+                      (fun q => A i q.1 * B j q.2 * y' q)
+    _ = ∑ i, ∑ k, x i * (A i k * B i k * x' k) := by
+          simp [y, y', diagonal, flip, Finset.mul_sum, eq_comm]
+    _ = x ⬝ᵥ (A ⊙ B) *ᵥ x' := by
+          simp only [dotProduct, Matrix.mulVec, Matrix.hadamard,
+            Matrix.of_apply, Finset.mul_sum]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Vec.lean]:
```suggestion
  simp [diagonal, mulVec, dotProduct, Fintype.sum_prod_type]
```

**Comment by mrdouglasny** [comment]
Rebased onto current master and addressed all remaining feedback:

- **Dropped** `conjTranspose_hadamard`/`transpose_hadamard` from Hadamard.lean (now upstream via #37302)
- **Simplified** `vec_diagonal_ne_zero` using `diagonal_eq_zero` (from #37303)
- **Kept** the helper lemmas in Vec.lean (`dotProduct_hadamard_mulVec_eq_kronecker` at `NonUnitalSemiring`, `star_dotProduct_hadamard_mulVec_eq_kronecker`)
- **Kept** `IsHermitian.hadamard`, `PosSemidef.hadamard`, `PosDef.hadamard` in SchurProduct.lean

Net change: 4 files, 106 lines added (down from 5 files, 120 lines). CI is green.

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 18]
```diff
@@ -0,0 +1,72 @@
...
+open scoped Matrix Kronecker ComplexOrder
+
+namespace Matrix
+
+variable {ι : Type*} {𝕜 : Type*} [RCLike 𝕜]
+
+/-- The Hadamard product of Hermitian matrices is Hermitian. -/
+theorem IsHermitian.hadamard {α : Type*} [CommMonoid α] [StarMul α] {A B : Matrix ι ι α}
+    (hA : A.IsHermitian) (hB : B.IsHermitian) : (A ⊙ B).IsHermitian := by
+  rw [IsHermitian, conjTranspose_hadamard, hB.eq, hA.eq, hadamard_comm]
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: This doesn't belong here. Can you move it to `LinearAlgebra/Matrix/Hermitian` (it might need you to import `Mathlib.LinearAlgebra.Matrix.Hadamard` I think)?

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 19]
```diff
@@ -0,0 +1,72 @@
...
+
+private lemma vec_diagonal_ne_zero [DecidableEq ι] {x : ι → 𝕜} (hx : x ≠ 0) :
+    vec (diagonal x) ≠ 0 := by
+  rwa [ne_eq, vec_eq_zero_iff, diagonal_eq_zero]
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: I think you should just inline this proof into `PosDef.hadamard`.

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 20]
```diff
@@ -0,0 +1,83 @@
...
+of positive semidefinite matrices is positive semidefinite. -/
+theorem PosSemidef.hadamard {A B : Matrix ι ι 𝕜}
+    (hA : A.PosSemidef) (hB : B.PosSemidef) : (A ⊙ B).PosSemidef := by
+  classical
+  refine ⟨hA.isHermitian.hadamard hB.isHermitian, fun x ↦ ?_⟩
+  have hs : x.support.subtype (· ∈ x.support) = x.support.attach := by
+    ext ⟨x, hx⟩; simp [hx]
+  have hAs := hA.submatrix (Subtype.val : x.support → ι)
+  have hBs := hB.submatrix (Subtype.val : x.support → ι)
+  have hHads : ((A ⊙ B).submatrix (Subtype.val : x.support → ι) Subtype.val).PosSemidef := by
```
Comment (TJHeeringa) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: You could consider moving `hAs` and `hBs` into the proof of `hHads`, since it is only used inside there.

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 21]
```diff
@@ -0,0 +1,83 @@
...
+matrices is positive definite. -/
+theorem PosDef.hadamard {A B : Matrix ι ι 𝕜}
+    (hA : A.PosDef) (hB : B.PosDef) : (A ⊙ B).PosDef := by
+  classical
+  refine ⟨hA.isHermitian.hadamard hB.isHermitian, fun x hx ↦ ?_⟩
+  have hAs : (A.submatrix (Subtype.val : x.support → ι) Subtype.val).PosDef :=
+    hA.submatrix Subtype.coe_injective
+  have hBs : (B.submatrix (Subtype.val : x.support → ι) Subtype.val).PosDef :=
+    hB.submatrix Subtype.coe_injective
+  have hHads : ((A ⊙ B).submatrix (Subtype.val : x.support → ι) Subtype.val).PosDef := by
```
Comment (TJHeeringa) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: You could here also consider moving hAs and hBs into the proof of hHads, since it is only used inside there.

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 22]
```diff
@@ -0,0 +1,83 @@
...
+  refine ⟨hA.isHermitian.hadamard hB.isHermitian, fun x hx ↦ ?_⟩
+  have hHads : ((A ⊙ B).submatrix (Subtype.val : x.support → ι) Subtype.val).PosDef := by
+    have hAs : (A.submatrix (Subtype.val : x.support → ι) Subtype.val).PosDef :=
+      hA.submatrix Subtype.coe_injective
+    have hBs : (B.submatrix (Subtype.val : x.support → ι) Subtype.val).PosDef :=
+      hB.submatrix Subtype.coe_injective
+    rw [submatrix_hadamard, posDef_iff_dotProduct_mulVec]
+    exact ⟨hAs.isHermitian.hadamard hBs.isHermitian, fun y hy => by
+      rw [star_dotProduct_hadamard_mulVec_eq_kronecker]
+      exact (PosDef.kronecker hAs hBs).dotProduct_mulVec_pos (by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]:
```suggestion
      exact (hAs.kronecker hBs).dotProduct_mulVec_pos (by
```

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 23]
```diff
@@ -0,0 +1,83 @@
...
+
+variable {ι : Type*} {𝕜 : Type*} [RCLike 𝕜]
+
+/-- **Schur product theorem** (positive semidefinite version): the Hadamard (entrywise) product
+of positive semidefinite matrices is positive semidefinite. -/
+theorem PosSemidef.hadamard {A B : Matrix ι ι 𝕜}
+    (hA : A.PosSemidef) (hB : B.PosSemidef) : (A ⊙ B).PosSemidef := by
+  classical
+  refine ⟨hA.isHermitian.hadamard hB.isHermitian, fun x ↦ ?_⟩
+  have hs : x.support.subtype (· ∈ x.support) = x.support.attach := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: Could you extract this as a `Finset.subtype_mem_eq_attach` lemma?

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 24]
```diff
@@ -0,0 +1,83 @@
...
+    ext ⟨x, hx⟩; simp [hx]
+  have hHads : ((A ⊙ B).submatrix (Subtype.val : x.support → ι) Subtype.val).PosSemidef := by
+    have hAs := hA.submatrix (Subtype.val : x.support → ι)
+    have hBs := hB.submatrix (Subtype.val : x.support → ι)
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: A little shorter as something like:
```suggestion
  have hHads : ((A ⊙ B).submatrix (↑) (↑) : Matrix x.support _ _).PosSemidef := by
    have hAs := hA.submatrix ((↑) : x.support → ι)
    have hBs := hB.submatrix ((↑) : x.support → ι)
```

File: Mathlib/Analysis/Matrix/SchurProduct.lean (hunk 18 above)
Comment (mrdouglasny) [reply Mathlib/Analysis/Matrix/SchurProduct.lean]: Good idea — kept it inline for now since it needs a home outside this file. Happy to extract it in a follow-up PR to `Mathlib.Data.Finset.Basic` or similar.

File: Mathlib/LinearAlgebra/Matrix/Hermitian.lean [hunk 25]
```diff
@@ -154,6 +155,17 @@ theorem isHermitian_fromBlocks_iff {A : Matrix m m α} {B : Matrix m n α} {C :
...
+
+variable [CommMonoid α] [StarMul α]
+
+/-- The Hadamard product of Hermitian matrices is Hermitian. -/
+theorem IsHermitian.hadamard {A B : Matrix n n α}
+    (hA : A.IsHermitian) (hB : B.IsHermitian) : (A ⊙ B).IsHermitian := by
+  rw [IsHermitian, conjTranspose_hadamard, hB.eq, hA.eq, hadamard_comm]
+
+end Hadamard
+
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Hermitian.lean]: I don't think there's a need for a section here
```suggestion
/-- The Hadamard product of Hermitian matrices is Hermitian. -/
theorem IsHermitian.hadamard [CommMonoid α] [StarMul α] {A B : Matrix n n α}
    (hA : A.IsHermitian) (hB : B.IsHermitian) : (A ⊙ B).IsHermitian := by
  rw [IsHermitian, conjTranspose_hadamard, hB.eq, hA.eq, hadamard_comm]

```

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 26]
```diff
@@ -0,0 +1,84 @@
...
+  have hHads : ((A ⊙ B).submatrix (↑) (↑) : Matrix x.support _ _).PosSemidef := by
+    have hAs := hA.submatrix ((↑) : x.support → ι)
+    have hBs := hB.submatrix ((↑) : x.support → ι)
+    rw [submatrix_hadamard, posSemidef_iff_dotProduct_mulVec]
+    exact ⟨hAs.isHermitian.hadamard hBs.isHermitian, fun y => by
+      rw [star_dotProduct_hadamard_mulVec_eq_kronecker]
+      exact (hAs.kronecker hBs).dotProduct_mulVec_nonneg _⟩
+  simp_rw [RCLike.star_def, hadamard_apply, Finsupp.sum, ← Finset.sum_attach x.support, ← hs,
+    ← Finsupp.subtypeDomain_apply, ← Finsupp.support_subtypeDomain]
+  exact hHads.2 (x.subtypeDomain (· ∈ x.support))
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: just renamed the `have` and some style nits:
```suggestion
  have hAB : ((A ⊙ B).submatrix (↑) (↑) : Matrix x.support _ _).PosSemidef := by
    have hAs := hA.submatrix ((↑) : x.support → ι)
    have hBs := hB.submatrix ((↑) : x.support → ι)
    rw [submatrix_hadamard, posSemidef_iff_dotProduct_mulVec]
    refine ⟨hAs.isHermitian.hadamard hBs.isHermitian, fun y ↦ ?_⟩
    rw [star_dotProduct_hadamard_mulVec_eq_kronecker]
    exact (hAs.kronecker hBs).dotProduct_mulVec_nonneg _
  simp_rw [RCLike.star_def, hadamard_apply, Finsupp.sum, ← Finset.sum_attach x.support, ← hs,
    ← Finsupp.subtypeDomain_apply, ← Finsupp.support_subtypeDomain]
  exact hAB.2 (x.subtypeDomain (· ∈ x.support))
```

File: Mathlib/Analysis/Matrix/SchurProduct.lean [hunk 27]
```diff
@@ -0,0 +1,84 @@
...
+    exact ⟨hAs.isHermitian.hadamard hBs.isHermitian, fun y hy => by
+      rw [star_dotProduct_hadamard_mulVec_eq_kronecker]
+      exact (PosDef.kronecker hAs hBs).dotProduct_mulVec_pos (by
+        rwa [ne_eq, vec_eq_zero_iff, diagonal_eq_zero])⟩
+  simp_rw [RCLike.star_def, hadamard_apply, Finsupp.sum, ← Finset.sum_attach x.support, ← hs,
+    ← Finsupp.subtypeDomain_apply, ← Finsupp.support_subtypeDomain]
+  exact hHads.2 (by
+    simp_rw [← Finsupp.support_nonempty_iff, Finsupp.support_subtypeDomain, hs,
+      Finset.attach_nonempty_iff]
+    exact Finsupp.support_nonempty_iff.mpr hx)
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/SchurProduct.lean]: here as well
```suggestion
  have hAB : ((A ⊙ B).submatrix (↑) (↑) : Matrix x.support _ _).PosDef := by
    have hAs : (A.submatrix (↑) (↑) : Matrix x.support _ _).PosDef :=
      hA.submatrix Subtype.coe_injective
    have hBs : (B.submatrix (↑) (↑) : Matrix x.support _ _).PosDef :=
      hB.submatrix Subtype.coe_injective
    rw [submatrix_hadamard, posDef_iff_dotProduct_mulVec]
    refine ⟨hAs.isHermitian.hadamard hBs.isHermitian, fun y hy ↦ ?_⟩
    rw [star_dotProduct_hadamard_mulVec_eq_kronecker]
    refine (PosDef.kronecker hAs hBs).dotProduct_mulVec_pos ?_
    rwa [ne_eq, vec_eq_zero_iff, diagonal_eq_zero]
  simp_rw [RCLike.star_def, hadamard_apply, Finsupp.sum, ← Finset.sum_attach x.support, ← hs,
    ← Finsupp.subtypeDomain_apply, ← Finsupp.support_subtypeDomain]
  refine hAB.2 ?_
  simp_rw [← Finsupp.support_nonempty_iff, Finsupp.support_subtypeDomain, hs,
    Finset.attach_nonempty_iff]
  exact Finsupp.support_nonempty_iff.mpr hx
```

**Review by themathqueen — COMMENTED** [review]
I think you should just add the lemmas in `Analysis/Matrix/Order` instead of having their own file (below the kronecker versions). And in the future when we generalize the `PosSemidef.kronecker`, then we can just immediately move them into an earlier file.

Please comment with `-awaiting-author` when you're ready for another review.

File: Mathlib/Data/Finset/Image.lean [hunk 28]
```diff
@@ -589,6 +589,11 @@ theorem subtype_map (p : α → Prop) [DecidablePred p] {s : Finset α} :
 theorem subtype_map_of_mem {p : α → Prop} [DecidablePred p] {s : Finset α} (h : ∀ x ∈ s, p x) :
     (s.subtype p).map (Embedding.subtype _) = s := ext <| by simpa [subtype_map] using h
 
+@[simp]
+theorem subtype_mem_eq_attach [DecidableEq α] {s : Finset α} :
```
Comment (themathqueen) [inline Mathlib/Data/Finset/Image.lean]:
```suggestion
theorem subtype_mem_eq_attach {s : Finset α} [DecidablePred (· ∈ s)] :
```

File: Mathlib/Data/Finset/Image.lean [hunk 29]
```diff
@@ -589,6 +589,11 @@ theorem subtype_map (p : α → Prop) [DecidablePred p] {s : Finset α} :
...
+    s.subtype (· ∈ s) = s.attach := by
+  ext ⟨x, hx⟩; simp [hx]
```
Comment (themathqueen) [inline Mathlib/Data/Finset/Image.lean]:
```suggestion
  ext; simp
```

File: Mathlib/Analysis/Matrix/Order.lean [hunk 30]
```diff
@@ -235,6 +236,54 @@ theorem PosDef.kronecker {x : Matrix n n 𝕜} {y : Matrix m m 𝕜}
...
+    have hAs := hA.submatrix ((↑) : x.support → ι)
+    have hBs := hB.submatrix ((↑) : x.support → ι)
+    rw [submatrix_hadamard, posSemidef_iff_dotProduct_mulVec]
+    refine ⟨hAs.isHermitian.hadamard hBs.isHermitian, fun y ↦ ?_⟩
+    rw [star_dotProduct_hadamard_mulVec_eq_kronecker]
+    exact (hAs.kronecker hBs).dotProduct_mulVec_nonneg _
+  simp_rw [RCLike.star_def, hadamard_apply, Finsupp.sum,
+    ← Finset.sum_attach x.support, ← Finset.subtype_mem_eq_attach,
+    ← Finsupp.subtypeDomain_apply, ← Finsupp.support_subtypeDomain]
+  exact hAB.2 (x.subtypeDomain (· ∈ x.support))
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean]:
```suggestion
  simpa [Finsupp.sum, ← Finset.sum_attach x.support, ← Finset.subtype_mem_eq_attach,
    ← Finsupp.subtypeDomain_apply, ← Finsupp.support_subtypeDomain] using hAB.2 _
```

File: Mathlib/Analysis/Matrix/Order.lean [hunk 31]
```diff
@@ -235,6 +236,54 @@ theorem PosDef.kronecker {x : Matrix n n 𝕜} {y : Matrix m m 𝕜}
...
+  have hAB : ((A ⊙ B).submatrix (↑) (↑) : Matrix x.support _ _).PosDef := by
+    have hAs : (A.submatrix (↑) (↑) : Matrix x.support _ _).PosDef :=
+      hA.submatrix Subtype.coe_injective
+    have hBs : (B.submatrix (↑) (↑) : Matrix x.support _ _).PosDef :=
+      hB.submatrix Subtype.coe_injective
+    rw [submatrix_hadamard, posDef_iff_dotProduct_mulVec]
+    refine ⟨hAs.isHermitian.hadamard hBs.isHermitian, fun y hy ↦ ?_⟩
+    rw [star_dotProduct_hadamard_mulVec_eq_kronecker]
+    refine (PosDef.kronecker hAs hBs).dotProduct_mulVec_pos ?_
+    rwa [ne_eq, vec_eq_zero_iff, diagonal_eq_zero]
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean]:
```suggestion
    exact (PosDef.kronecker hAs hBs).dotProduct_mulVec_pos <| by simpa
```

File: Mathlib/Analysis/Matrix/Order.lean [hunk 32]
```diff
@@ -235,6 +236,54 @@ theorem PosDef.kronecker {x : Matrix n n 𝕜} {y : Matrix m m 𝕜}
...
+  simp_rw [RCLike.star_def, hadamard_apply, Finsupp.sum,
+    ← Finset.sum_attach x.support, ← Finset.subtype_mem_eq_attach,
+    ← Finsupp.subtypeDomain_apply, ← Finsupp.support_subtypeDomain]
+  refine hAB.2 ?_
+  simp_rw [← Finsupp.support_nonempty_iff, Finsupp.support_subtypeDomain,
+    Finset.subtype_mem_eq_attach, Finset.attach_nonempty_iff]
+  exact Finsupp.support_nonempty_iff.mpr hx
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean]:
```suggestion
  simpa [← Finsupp.support_nonempty_iff] using Finsupp.support_nonempty_iff.mpr hx
```

File: Mathlib/Analysis/Matrix/Order.lean [hunk 33]
```diff
@@ -9,6 +9,7 @@ public import Mathlib.Algebra.Order.Module.PositiveLinearMap
 public import Mathlib.Analysis.CStarAlgebra.ContinuousFunctionalCalculus.Instances
 public import Mathlib.Analysis.Matrix.HermitianFunctionalCalculus
 public import Mathlib.Analysis.Matrix.PosDef
+public import Mathlib.LinearAlgebra.Matrix.Vec
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean]: Please reorder this alphabetically. So should go last.

File: Mathlib/Analysis/Matrix/Order.lean [hunk 34]
```diff
@@ -235,6 +236,49 @@ theorem PosDef.kronecker {x : Matrix n n 𝕜} {y : Matrix m m 𝕜}
...
+      hB.submatrix Subtype.coe_injective
+    rw [submatrix_hadamard, posDef_iff_dotProduct_mulVec]
+    refine ⟨hAs.isHermitian.hadamard hBs.isHermitian, fun y hy ↦ ?_⟩
+    rw [star_dotProduct_hadamard_mulVec_eq_kronecker]
+    exact (PosDef.kronecker hAs hBs).dotProduct_mulVec_pos <| by simpa
+  simp_rw [RCLike.star_def, hadamard_apply, Finsupp.sum,
+    ← Finset.sum_attach x.support, ← Finset.subtype_mem_eq_attach,
+    ← Finsupp.subtypeDomain_apply, ← Finsupp.support_subtypeDomain]
+  refine hAB.2 ?_
+  simpa [← Finsupp.support_nonempty_iff] using Finsupp.support_nonempty_iff.mpr hx
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean:278]: Don't apply this yet, let someone else make the decision because I feel like it's overly golfed (`simpa using by simpa using by simpa` 😆):

```suggestion
  simpa [Finsupp.sum, ← Finset.sum_attach x.support, ← Finset.subtype_mem_eq_attach,
      ← Finsupp.subtypeDomain_apply, ← Finsupp.support_subtypeDomain] using
    hAB.2 <| by simpa [← Finsupp.support_nonempty_iff] using by simpa
```

**Review by themathqueen — APPROVED** [review]
Looks good, thanks!

maintainer delegate

File: Mathlib/Data/Finset/Image.lean [hunk 35]
```diff
@@ -589,6 +589,11 @@ theorem subtype_map (p : α → Prop) [DecidablePred p] {s : Finset α} :
 theorem subtype_map_of_mem {p : α → Prop} [DecidablePred p] {s : Finset α} (h : ∀ x ∈ s, p x) :
     (s.subtype p).map (Embedding.subtype _) = s := ext <| by simpa [subtype_map] using h
 
+@[simp]
+theorem subtype_mem_eq_attach {s : Finset α} [DecidablePred (· ∈ s)] :
```
Comment (themathqueen) [inline Mathlib/Data/Finset/Image.lean]:
```suggestion
theorem subtype_mem_eq_attach (s : Finset α) [DecidablePred (· ∈ s)] :
```

File: Mathlib/Data/Finset/Image.lean (hunk 28 above)
Comment (eric-wieser) [reply Mathlib/Data/Finset/Image.lean]: I'm never quite sure if this is a good idea or not, but not worth holding up this PR on either way

File: Mathlib/Analysis/Matrix/Order.lean (hunk 34 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Matrix/Order.lean:278]: Yeah, let's not do that. If you can extract one of these to a `suffices`, then maybe

File: Mathlib/Data/Finset/Image.lean (hunk 35 above)
Comment (eric-wieser) [reply Mathlib/Data/Finset/Image.lean]: Beat me to it

File: Mathlib/Analysis/Matrix/Order.lean (hunk 34 above)
Comment (themathqueen) [reply Mathlib/Analysis/Matrix/Order.lean:278]: I think what we have is good enough. No need for anything else.

File: Mathlib/LinearAlgebra/Matrix/Vec.lean [hunk 36]
```diff
@@ -174,6 +174,28 @@ theorem vec_mul_eq_vecMul [DecidableEq m] (A : Matrix m n R) (B : Matrix n p R)
 
 end Semiring
 
+section Hadamard
+
+variable [NonUnitalSemiring R] [DecidableEq m] [Fintype m] [DecidableEq n] [Fintype n]
+
+/-- The Hadamard bilinear form equals the Kronecker bilinear form on diagonal embeddings. -/
+theorem dotProduct_hadamard_mulVec_eq_kronecker
+    {A B : Matrix m n R} (x : m → R) (x' : n → R) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Vec.lean]: These (and below) should be explicit, and may as well be in order:
```suggestion
    (x : m → R) (A B : Matrix m n R) (x' : n → R) :
```

File: Mathlib/Analysis/Matrix/Order.lean [hunk 37]
```diff
@@ -235,6 +236,49 @@ theorem PosDef.kronecker {x : Matrix n n 𝕜} {y : Matrix m m 𝕜}
...
+  refine ⟨hA.isHermitian.hadamard hB.isHermitian, fun x hx ↦ ?_⟩
+  have hAB : ((A ⊙ B).submatrix (↑) (↑) : Matrix x.support _ _).PosDef := by
+    have hAs : (A.submatrix (↑) (↑) : Matrix x.support _ _).PosDef :=
+      hA.submatrix Subtype.coe_injective
+    have hBs : (B.submatrix (↑) (↑) : Matrix x.support _ _).PosDef :=
+      hB.submatrix Subtype.coe_injective
+    rw [submatrix_hadamard, posDef_iff_dotProduct_mulVec]
+    refine ⟨hAs.isHermitian.hadamard hBs.isHermitian, fun y hy ↦ ?_⟩
+    rw [star_dotProduct_hadamard_mulVec_eq_kronecker]
+    exact (PosDef.kronecker hAs hBs).dotProduct_mulVec_pos <| by simpa
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Order.lean]:
```suggestion
    exact (hAs.kronecker hBs).dotProduct_mulVec_pos <| by simpa
```

File: Mathlib/LinearAlgebra/Matrix/Vec.lean [hunk 38]
```diff
@@ -174,6 +174,28 @@ theorem vec_mul_eq_vecMul [DecidableEq m] (A : Matrix m n R) (B : Matrix n p R)
...
+
+/-- The starred Hadamard bilinear form equals the starred Kronecker bilinear form on diagonal
+embeddings. -/
+theorem star_dotProduct_hadamard_mulVec_eq_kronecker [StarRing R]
+    (x : m → R) (A B : Matrix m n R) (x' : n → R) :
+    star x ⬝ᵥ (A ⊙ B) *ᵥ x' =
+      star (vec (diagonal x)) ⬝ᵥ (A ⊗ₖ B) *ᵥ vec (diagonal x') := by
+  rw [dotProduct_hadamard_mulVec_eq_kronecker, ← diagonal_conjTranspose, conjTranspose, vec_map,
+    diagonal_transpose]
+  rfl
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Vec.lean]: Now that I think more about this, what if we just had `star_vec_diagonal` (or `vec_diagonal_star`)
```lean4
theorem star_vec_diagonal [StarAddMonoid R] (x : m → R) :
    star (vec (diagonal x)) = vec (diagonal (star x)) := by
  aesop (add simp diagonal_apply)
```
instead of this? Then you can just rewrite using the above and this.

@eric-wieser, what do you think?

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/Vec.lean]: This makes more sense to me than having this lemma.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/Vec.lean]: Actually, scratch that. @mrdouglasny, add this instead (maybe in `LinearAlgebra/Matrix/ConjTranspose`?):
```lean4
theorem diagonal_star {R m} [AddMonoid R] [DecidableEq m] [StarAddMonoid R] (x : m → R) :
    diagonal (star x) = (diagonal x).map star :=
  diagonal_map (star_zero _) |>.symm
```
Then in the later lemmas, you can do `rw [dotProduct_hadamard_mulVec_eq_kronecker, diagonal_star, ← star_vec]` instead of `rw [star_dotProduct_hadamard_mulVec_eq_kronecker]`.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Vec.lean]: ~~We should definitely have `diagonal_star`, but~~ I would lean towards keeping `star_dotProduct_hadamard_mulVec_eq_kronecker ` anyway for convenience.

Edit: we already have `Matrix.diagonal_conjTranspose`, the proposed lemma seems inconsistent with it.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/Vec.lean]: Right, it should be the other way around: `map_diagonal_star`. I'm not sure how convenient `star_dotProduct_hadamard_mulVec_eq_kronecker` is if it's just 1-2 rewrites away. But sure, why not, I don't really have strong opinions about this

File: docs/references.bib [hunk 39]
```diff
@@ -4844,6 +4844,17 @@ @Misc{            scholze2019condensed
   url           = {https://www.math.uni-bonn.de/people/scholze/Condensed.pdf}
 }
 
+@Article{         schur1911,
```
Comment (eric-wieser) [inline docs/references.bib:4858]: Can you make sure to reference this somewhere?

File: Mathlib/LinearAlgebra/Matrix/Vec.lean (hunk 38 above)
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Vec.lean]: ~~In 1-2 hours, when #37804 gets merged,~~ Please merge master, then change it to this

```suggestion
    star x ⬝ᵥ (A ⊙ B) *ᵥ x' = star (vec (diagonal x)) ⬝ᵥ (A ⊗ₖ B) *ᵥ vec (diagonal x') := by
  rw [dotProduct_hadamard_mulVec_eq_kronecker, ← map_diagonal_star, star_vec]
```

File: Mathlib/LinearAlgebra/Matrix/Vec.lean [hunk 40]
```diff
@@ -174,6 +174,28 @@ theorem vec_mul_eq_vecMul [DecidableEq m] (A : Matrix m n R) (B : Matrix n p R)
...
+
+/-- The Hadamard bilinear form equals the Kronecker bilinear form on diagonal embeddings. -/
+theorem dotProduct_hadamard_mulVec_eq_kronecker
+    (x : m → R) (A B : Matrix m n R) (x' : n → R) :
+    x ⬝ᵥ (A ⊙ B) *ᵥ x' = vec (diagonal x) ⬝ᵥ (A ⊗ₖ B) *ᵥ vec (diagonal x') := by
+  simp [diagonal, mulVec, dotProduct, Fintype.sum_prod_type]
+
+/-- The starred Hadamard bilinear form equals the starred Kronecker bilinear form on diagonal
+embeddings. -/
+theorem star_dotProduct_hadamard_mulVec_eq_kronecker [StarRing R]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Vec.lean]: also
```suggestion
theorem star_dotProduct_hadamard_mulVec_eq_kronecker [StarAddMonoid R]
```

File: Mathlib/Analysis/Matrix/Order.lean [hunk 41]
```diff
@@ -235,6 +236,49 @@ theorem PosDef.kronecker {x : Matrix n n 𝕜} {y : Matrix m m 𝕜}
 
 end kronecker
 
+section hadamard
+
+variable {ι : Type*}
+
+/-- **Schur product theorem** [schur1911] (positive semidefinite version): the Hadamard (entrywise)
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/Order.lean]:
```suggestion
/-- [**Schur product theorem**][schur1911] (positive semidefinite version): the Hadamard (entrywise)
```
I don't think the reference will be a link otherwise
